US05512562
0.5 g (0.0016 mol) 1-(benzofuran-7-yl)-6,7-dihydroxy-3-methyl-2,3,4,5-tetrahydro-1H-3-benzazepine was dissolved in a mixture of 25 ml ethanol and 2 ml acetic acid. 0.2 g catalyst (10% Pd/C) was added and the mixture was submitted to hydrogenation in a Parr apparatus at a pressure of 50 psi. After 24 h the catalyst was filtered off and the solution was concentrated in vacuo. The residue was redissolved in dichloromethane, the solution was washed subsequently with NaHCO3-solution, water and brine. Evaporation in vacuo gave 1-(2,3-dihydrobenzofuran-7-yl)-6,7-dihydroxy-3-methyl-2,3,4,5-tetrahydro-1H-3-benzazepine as an offwhite foam.

reactant | 1-(benzofuran-7-yl)-6,7-dihydroxy-3-methyl-2,3,4,5-tetrahydro-1H-3-benzazepine | 0.0016 mol, 0.5 g | O1C=CC2=C1C(=CC=C2)C2CN(CCC1=C2C=CC(=C1O)O)C | C19H19NO3
solvent | ethanol | 25 ml | C(C)O | C2H6O
solvent | acetic acid | 2 ml | C(C)(=O)O | C2H4O2
product | 1-(2,3-dihydrobenzofuran-7-yl)-6,7-dihydroxy-3-methyl-2,3,4,5-tetrahydro-1H-3-benzazepine | O1CCC2=C1C(=CC=C2)C2CN(CCC1=C2C=CC(=C1O)O)C | C19H21NO3
